US07863305B2
3-(4-methoxy-1H-indol-3-yl)-N-methyl-3-pyridin-4-yl-propionamide was reduced with borane using the procedure described in step 3 of Example 1 to afford [3-(4-methoxy-1H-indol-3-yl)-3-pyridin-4-yl-propyl]-methyl-amine, (M+H=296).

reactant | 3-(4-methoxy-1H-indol-3-yl)-N-methyl-3-pyridin-4-yl-propionamide | COC1=C2C(=CNC2=CC=C1)C(CC(=O)NC)C1=CC=NC=C1 | C18H19N3O2
reactant | borane | B | BH3
product | [3-(4-methoxy-1H-indol-3-yl)-3-pyridin-4-yl-propyl]-methyl-amine | COC1=C2C(=CNC2=CC=C1)C(CCNC)C1=CC=NC=C1 | C18H21N3O
